US07790728B2
N-[6-(6-Hydroxypyridin-3-yl)-5-pyridin-4-ylpyrazin-2-yl]cyclopropanecarboxamide
To a stirred solution of N-[6-(6-benzyloxypyridin-3-yl)-5-pyridin-4-ylpyrazin-2-yl]cyclopropanecarboxamide (0.22 g, 0.51 mmol) in ethanol (11 mL) was added palladium on activated carbon (10%) (0.033 g) and the mixture was hydrogenated under atmospheric pressure. After 18 h, the mixture was filtered, washed with ethanol and evaporated under vacuum to provide the titled compound as a brown solid (0.046 g, 27%).

reactant | N-[6-(6-benzyloxypyridin-3-yl)-5-pyridin-4-ylpyrazin-2-yl]cyclopropanecarboxamide | 0.51 mmol, 0.22 g | C(C1=CC=CC=C1)OC1=CC=C(C=N1)C1=C(N=CC(=N1)NC(=O)C1CC1)C1=CC=NC=C1 | C25H21N5O2
solvent | ethanol | 11 mL | C(C)O | C2H6O
catalyst | palladium on activated carbon | 0.033 g | [Pd] | Pd
product | N-[6-(6-Hydroxypyridin-3-yl)-5-pyridin-4-ylpyrazin-2-yl]cyclopropanecarboxamide | 0.046 g, 27% | OC1=CC=C(C=N1)C1=C(N=CC(=N1)NC(=O)C1CC1)C1=CC=NC=C1 | C18H15N5O2
